US04409217
Methanol (15 ml) and conc. hydrochloric acid (0.8 g) were added to 7-[2-(tert-butoxycarbonylmethoxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-chloro-3-cephem-4-carboxylic acid (syn isomer, 2.2 g), and stirred at room temperature for 2.5 hours. To the resultant solution were added ethyl acetate (50 ml) and water (50 ml), and then the solution was adjusted to pH 7.5 with a saturated solution of sodium bicarbonate. After separating the aqueous layer, the aqueous solution was saturated with sodium chloride, and adjusted to pH 3.0 with 10% hydrochloric acid. After adding water, the solution was extracted with ethyl acetate. The extract was washed with a saturated solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with diisopropyl ether and the precipitates were collected by filtration and dried to give 7-[2-(tert-butoxycarbonylmethoxyimino)-2-(2-aminothiazol-4-yl)acetamido]-3-chloro-3-cephem-4-carboxylic acid (syn isomer, 1.72 g).

reactant | Methanol | 15 ml | CO | CH4O
reactant | hydrochloric acid | 0.8 g | Cl | ClH
reactant | 7-[2-(tert-butoxycarbonylmethoxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-chloro-3-cephem-4-carboxylic acid | 2.2 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C19H20ClN5O8S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 7-[2-(tert-butoxycarbonylmethoxyimino)-2-(2-aminothiazol-4-yl)acetamido]-3-chloro-3-cephem-4-carboxylic acid | 1.72 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O)C=1N=C(SC1)N | C18H20ClN5O7S2
